US04526897
63.9 g of N-(t-butyloxycarbonylamino)-3,6-dimethylphthalimide in 400 ml of absolute tetrahydrofuran are slowly dripped into a suspension of 20 g of aluminum lithium hydride in absolute tetrahydrofuran. The mixture is heated over 2 hours to the boiling point. Conventional processing yields 20 g of N-(t-butyloxycarbonylamino)-4,7-dimethylisoindoline.

reactant | N-(t-butyloxycarbonylamino)-3,6-dimethylphthalimide | 63.9 g | C(C)(C)(C)OC(=O)NN1C(C=2C(C1=O)=C(C=CC2C)C)=O | C15H18N2O4
reactant | aluminum lithium hydride | 20 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-(t-butyloxycarbonylamino)-4,7-dimethylisoindoline | 20 g | C(C)(C)(C)OC(=O)NN1CC2=C(C=CC(=C2C1)C)C | C15H22N2O2
